US05559111
c) 2(S)-Tert-butoxycarbonylamino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanal
At -75° C., 4.2 ml of 1.2M diisobutylaluminium hydride solution in toluene are slowly added dropwise to a solution of 1 g of 2(S)-tert-butoxycarbonylamino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester in 20 ml of toluene. The reaction mixture is then stirred for a further 30 minutes at -70° C., 10 ml of methanol are added, the mixture is poured onto a mixture of ice and 10 ml of 1N hydrochloric acid, and extraction is carried out with ethyl acetate. The title compound is obtained: Rf (dichloromethane)=0.35.

reactant | diisobutylaluminium hydride | 1.2M, 4.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2(S)-tert-butoxycarbonylamino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester | 1 g | COC([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)NC(=O)OC(C)(C)C)=O | C24H39NO4
reactant | methanol | 10 ml | CO | CH4O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(S)-Tert-butoxycarbonylamino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanal | C(C)(C)(C)OC(=O)N[C@H](C=O)C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C | C23H37NO3
